US07727988B2
5-(2-Fluoro-6-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione hydrochloride (Prep115)
5-(2-Fluoro-6-methyl-pyridin-3-yl)-2,4-dimethoxy-pyrimidine (Prep114, 691 mg, 2.76 mmol) was dissolved in 4M HCl in dioxane solution (7 ml). After refluxing the reaction mixture for 45 minutes, the solvent was removed under vacuum to give 667 mg of the title compound (93% yield)

reactant | 5-(2-Fluoro-6-methyl-pyridin-3-yl)-2,4-dimethoxy-pyrimidine | 2.76 mmol, 691 mg | FC1=NC(=CC=C1C=1C(=NC(=NC1)OC)OC)C | C12H12FN3O2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | 5-(2-Fluoro-6-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione hydrochloride | 667 mg, 93% yield | Cl.FC1=NC(=CC=C1C=1C(NC(NC1)=O)=O)C | InChI=1S/C10H8FN3O2.ClH/c1-5-2-3-6(8(11)13-5)7-4-12-10(16)14-9(7)15;/h2-4H,1H3,(H2,12,14,15,16);1H
